US08871766B2
A) ethyl 2,4′-bipyridine-3-carboxylate
A mixture of ethyl 2-chloronicotinate (16.2 g), pyridine-4-boronic acid (12.9 g), sodium carbonate (27.8 g), tetrakis(triphenylphosphine)palladium(0) (5.04 g), water (50.0 mL) and DME (250 mL) was stirred overnight at 100° C. under a nitrogen atmosphere. The reaction mixture was diluted with water, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (NH, ethyl acetate/hexane) to give the title compound (14.1 g).

reactant | ethyl 2-chloronicotinate | 16.2 g | ClC1=C(C(=O)OCC)C=CC=N1 | C8H8ClNO2
reactant | pyridine-4-boronic acid | 12.9 g | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | sodium carbonate | 27.8 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | DME | 250 mL | COCCOC | C4H10O2
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 5.04 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 50.0 mL | O | H2O
product | ethyl 2,4′-bipyridine-3-carboxylate | 14.1 g | N1=C(C(=CC=C1)C(=O)OCC)C1=CC=NC=C1 | C13H12N2O2
